US07476683B2
2-Chloro-N-(4-chloro-3-trifluoro methyl phenyl)-acetamide (9)
Chloroacetic acid chloride (0.69 ml; 8.44 mmol) is dropped slowly into a stirred solution of 4-chloro-3-trifluoro methyl aniline (1.5 g; 7.67 mmol) in pyridine (0.81 ml; 9.97 mmol) and dichloromethane (15 ml), cooled to 0° C. Stirring is continued for 2 h at room temperature. The reaction mixture is diluted with dichloromethane, washed twice with 1N aqueous hydrochloric acid and with water. The reaction mixture is then dried over Na2SO4, filtered and evaporated to yield 2.05 g (98%) brownish solid of 9.

reactant | Chloroacetic acid chloride | 8.44 mmol, 0.69 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-chloro-3-trifluoro methyl aniline | 7.67 mmol, 1.5 g | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | pyridine | 9.97 mmol, 0.81 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(4-chloro-3-trifluoro methyl phenyl)-acetamide | 2.05 g, 98% | ClCC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C9H6Cl2F3NO
